US08022222B2
Using the method of Example 32, 3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoic acid (0.1 g, 0.3055 mmol), triethylamine (0.2129 mL, 1.527 mmol), ethyl carbonochloridate (0.03359 mL, 0.3513 mmol), and 3-morpholinopropan-1-amine (0.1339 mL, 0.9164 mmol) were reacted in THF (2 mL) to provide 3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)-N-(3-morpholinopropyl)benzamide dihydrochloride (0.098 g, 60.33% yield) as off white solid. 1H NMR (CDCl3) δ 8.52 (s, 1H), 8.19 (d, 1H), 7.91 (d, 1H), 7.74 (s, 1H), 7.54 (t, 1H), 7.24 (d, 1H), 6.82 (dd, 1H), 6.41 (s, 1H), 4.26 (m, 2H), 3.99 (m, 2H), 3.65 (m, 2H), 3.52 (m, 2H), 3.19 (t, 2H), 2.89 (m, 2H), 2.41 (d, 3H), 2.26 (m, 2H); Mass spectrum (esi) m/z=454 (100) (M+H).

reactant | 3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoic acid | 0.3055 mmol, 0.1 g | CC=1N=C(SC1)NC1=NC=CC(=C1)OC=1C=C(C(=O)O)C=CC1 | C16H13N3O3S
reactant | triethylamine | 1.527 mmol, 0.2129 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl carbonochloridate | 0.3513 mmol, 0.03359 mL | C(OCC)(=O)Cl | C3H5ClO2
reactant | 3-morpholinopropan-1-amine | 0.9164 mmol, 0.1339 mL | O1CCN(CC1)CCCN | C7H16N2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)-N-(3-morpholinopropyl)benzamide dihydrochloride | 0.098 g, 60.33% yield | Cl.Cl.CC=1N=C(SC1)NC1=NC=CC(=C1)OC=1C=C(C(=O)NCCCN2CCOCC2)C=CC1 | InChI=1S/C23H27N5O3S.2ClH/c1-17-16-32-23(26-17)27-21-15-20(6-8-24-21)31-19-5-2-4-18(14-19)22(29)25-7-3-9-28-10-12-30-13-11-28;;/h2,4-6,8,14-16H,3,7,9-13H2,1H3,(H,25,29)(H,24,26,27);2*1H
